US05597776
3-(4-Bromophenyl)-prop-2-enyloxyamine
33.4 g (0.093 mol) of N-[3-(4-bromophenyl)-prop-2-enyloxy]phthalimide were introduced a little at a time in 50 ml of ethanolamine; the temperature increased to 30° C. during this procedure. Stirring was carried out for two hours at 60° C., after which the mixture was allowed to cool and 200 ml of dichloromethane were added. Extraction was effected by shaking with ice water. The organic phase was dried and evaporated down and the residue was crystallized from petroleum ether. Yield: 95.3%; m.p.: 35°-38° C.

reactant | N-[3-(4-bromophenyl)-prop-2-enyloxy]phthalimide | 0.093 mol, 33.4 g | BrC1=CC=C(C=C1)C=CCON1C(C=2C(C1=O)=CC=CC2)=O | C17H12BrNO3
reactant | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | ethanolamine | 50 ml | C(O)CN | C2H7NO
product | 3-(4-Bromophenyl)-prop-2-enyloxyamine | Yield: 95.3% | BrC1=CC=C(C=C1)C=CCON | C9H10BrNO
